US06015829
To a solution (10 ml) of ethyl 1-(3-cyano-4-(2-ethylbutoxy)phenyl)pyrazole-4-carboxylate (0.88 g) in ethanol was added 2 N aqueous sodium hydroxide solution (1.5 ml) with siring and the mixture was heated at 70° C. for 1 hour. After the completion of the reaction, the reaction mixture was poured into water and neutralized with acetic acid. The precipitated crystals were recrystallized from ethyl acetate to give 0.21 g of 1-(3-cyano-4-(2-ethylbutoxy)phenyl)pyrazole-4-carboxylic acid, melting point 180-182° C.

reactant | ethyl 1-(3-cyano-4-(2-ethylbutoxy)phenyl)pyrazole-4-carboxylate | 10 ml, 0.88 g | C(#N)C=1C=C(C=CC1OCC(CC)CC)N1N=CC(=C1)C(=O)OCC | C19H23N3O3
reactant | sodium hydroxide | 2 N, 1.5 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-cyano-4-(2-ethylbutoxy)phenyl)pyrazole-4-carboxylic acid | 0.21 g | C(#N)C=1C=C(C=CC1OCC(CC)CC)N1N=CC(=C1)C(=O)O | C17H19N3O3
